US05935952
To a mixture of 850 mg of 1-(1-aminocyclopropyl)-4-bromo-2-hydroxymethylbenzene and 8.5 ml of methanol was added 1.24 g of ethyl trifluoroacetate, and the resulting mixture was stirred at room temperature for 24 hours. The solvent was removed by distillation under reduced pressure, and the residue obtained was purified by a column chromatography (eluent: chloroform:ethanol=30:1), to obtain 1.02 g of colorless, crystalline 4-bromo-2-hydroxymethyl-1-(1-trifluoroacetylaminocyclopropyl)benzene.

reactant | 1-(1-aminocyclopropyl)-4-bromo-2-hydroxymethylbenzene | 850 mg | NC1(CC1)C1=C(C=C(C=C1)Br)CO | C10H12BrNO
reactant | ethyl trifluoroacetate | 1.24 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | 8.5 ml | CO | CH4O
product | 4-bromo-2-hydroxymethyl-1-(1-trifluoroacetylaminocyclopropyl)benzene | BrC1=CC(=C(C=C1)C1(CC1)NC(C(F)(F)F)=O)CO | C12H11BrF3NO2
